US07816361B2
Step 5: Preparation of 4-(5-Oxo-3-pyrazin-2-yl-2,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide
3-Oxo-3-pyrazin-2-yl-propionic acid, ethyl ester (78 mg) and 4-hydrazino-N-(1,2, 2,6,6-pentamethyl-piperidin-4-yl)-benzamide (141 mg) were dissolved in ethanol (3.5 ml) and acetic acid (0.5 ml) and the solution stirred at 65° C. for 2 h. Concentration in vacuo and purification by HPLC gave the expected product. LC/MS: main peak is product (m/z: 434)

reactant | 3-Oxo-3-pyrazin-2-yl-propionic acid, ethyl ester | 78 mg | O=C(CC(=O)OCC)C1=NC=CN=C1 | C9H10N2O3
reactant | 4-hydrazino-N-(1,2, 2,6,6-pentamethyl-piperidin-4-yl)-benzamide | 141 mg | N(N)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C17H28N4O
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
product | 4-(5-Oxo-3-pyrazin-2-yl-2,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide | O=C1C=C(NN1C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1)C1=NC=CN=C1 | C24H30N6O2
